US07700552B2
1-(2-Amino-4-methoxyphenyl)ethanone (7)
m-Anisidine (10.0 g, 82 mmol) was dissolved in CH2Cl2 (50 mL), and the solution was cooled to −50° C. BCl3 (1 M in CH2Cl2, 82 mL, 82 mmol) was added slowly during 20 min, after which the mixture was stirred at −50° C. for 30 min, followed by sequential addition of AcCl (6.0 mL, 84 mmol) and AlCl3 (11 g, 82 mmol). The mixture was stirred at −50° C. for 1 h and was then allowed to assume rt. After stirring at rt overnight, the solution was heated at 40° C. for 4 h, after which the mixture was poured over ice. The aqueous mixture was made alkaline with 10% NaOH (w/v) and extracted with EtOAc (4×200 mL). The combined organic phases were washed with brine, dried (MgSO4), and evaporated to give a black solid, which was purified by flash column chromatography (ether/CH2Cl2 20:80). The resulting solid was recrystallized from ether/hexane to give the title compound as shiny tan leaflets (5.6 g, 42%).

reactant | m-Anisidine | 82 mmol, 10.0 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | BCl3 | 82 mmol, 1 M, 82 mL | B(Cl)(Cl)Cl | BCl3
reactant | AcCl | 84 mmol, 6.0 mL | C(=O)(C)Cl | C2H3ClO
reactant | AlCl3 | 82 mmol, 11 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Amino-4-methoxyphenyl)ethanone | NC1=C(C=CC(=C1)OC)C(C)=O | C9H11NO2
